US04938791
A solution 27.9 g (0.11 mol) of 2-(1-chlorocyclopropyl)-2-(4-chloro-phenoxymethyl)-oxirane in 50 ml of acetonitrile is added dropwise under a nitrogen atmosphere to a mixture of 29 g (0.42 mol) of 1,2,4-triazole, 19 g (0.14 mol) of potassium carbonate and 100 ml bf acetonitrile, and the reaction mixture is boiled under reflux. After completion of the addition, the mixture is heated for a further 8 hours under reflux. The mixture is then filtered off from the solid residue with suction and the filtrate is concentrated under reduced pressure. The remaining residue is taken up in ethyl acetate. The resultant solution is washed with water, dried over sodium sulphate and concentrated under reduced pressure. The product thus obtained is purified chromatographically through silica gel using chloroform/ethanol=97:3 as eluent. In this manner, 13.7 g (39% of theory) of 2-(1-chlorocyclopropyl)-1-(4-chlorophenoxy)-3-(1,2,4-triazol-1-yl)-propan-2-ol are obtained in the form of an oil.

reactant | 2-(1-chlorocyclopropyl)-2-(4-chloro-phenoxymethyl)-oxirane | 0.11 mol, 27.9 g | ClC1(CC1)C1(OC1)COC1=CC=C(C=C1)Cl | C12H12Cl2O2
reactant | 1,2,4-triazole | 0.42 mol, 29 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.14 mol, 19 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(1-chlorocyclopropyl)-1-(4-chlorophenoxy)-3-(1,2,4-triazol-1-yl)-propan-2-ol | 13.7 g, 39% | ClC1(CC1)C(COC1=CC=C(C=C1)Cl)(CN1N=CN=C1)O | C14H15Cl2N3O2
